US04885027
N-Acetyl-(N-methyl-3-trifluoromethylbenzylsulfonamido)-acetamide
In this example, a catalytic amount (about 4 drops) of concentrated sulfuric acid was added to a suspension of 3.5 g of (N-methyl-3-trifluoromethylbenzylsulfonamido)-acetamide in 7 mls (7.6 g) of acetic anhydride at room temperature. The mixture was heated for 2 hours at about 138° C. and then poured into ice water and extracted into methylene chloride. The methylene chloride extract was washed with aqueous 5 wt.% sodium bicarbonate solution, dried over magnesium sulfate and evaporated to dryness affording 3.4 g of a white solid. The solid was triturated with ethyl ether affording 2.17 g of the title compound.

reactant | (N-methyl-3-trifluoromethylbenzylsulfonamido)-acetamide | 3.5 g | CN(S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F)CC(=O)N | C11H13F3N2O3S
reactant | acetic anhydride | 7 mls, 7.6 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | about 4 drops | S(O)(O)(=O)=O | H2O4S
product | N-Acetyl-(N-methyl-3-trifluoromethylbenzylsulfonamido)-acetamide | 3.4 g | C(C)(=O)NC(CN(S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F)C)=O | C13H15F3N2O4S
